US06391874B1
(4-Phenoxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-yl)-amine hydrochloride
4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazoline was treated with 4-phenoxyaniline according to Procedure A to give the title compound as a yellow solid; δH [2H6]DMSO 11.78 (1H,bs), 9.45(1H,s), 8.95 (1H,s), 8.60(1H,dd), 8.10 (1H,d), 7.75 (2H,d) 7.45(2H,d), 7.10(5H,m), 2.68(3H,s); m/z (M+1+) 396.

reactant | 4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
product | (4-Phenoxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-yl)-amine hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | InChI=1S/C23H17N5O2.ClH/c1-15-27-28-23(29-15)16-7-12-21-20(13-16)22(25-14-24-21)26-17-8-10-19(11-9-17)30-18-5-3-2-4-6-18;/h2-14H,1H3,(H,24,25,26);1H
